US04061761
4-(4-Chloro-3-sulfamoylphenyl)-2-isopropylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide
6.1 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone were heated with 2.4 g of 1-methyl-3-isopropylthiourea in 50 ml of acetone for 10 minutes to 40° C, the separating oil was triturated to form crystals and the crystalline suspension was stirred for 1 hour at room temperature. Colorless solid body: melting point: 195° C (decomposition).

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 6.1 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-methyl-3-isopropylthiourea | 2.4 g | CNC(=S)NC(C)C | C5H12N2S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-(4-Chloro-3-sulfamoylphenyl)-2-isopropylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC(C)C)C)O)S(N)(=O)=O | InChI=1S/C13H18ClN3O3S2.BrH/c1-8(2)16-12-17(3)13(18,7-21-12)9-4-5-10(14)11(6-9)22(15,19)20;/h4-6,8,18H,7H2,1-3H3,(H2,15,19,20);1H
